US07700552B2
N-(2-acetyl-5-methoxyphenyl)-2-thiazolecarboxamide (62)
To a solution of 2-thiazolecarboxaldehyde (500 mg, 3.87 mmol) in 35 mL of pyridine, 1-(2-amino-4-methoxyphenyl)ethanone (640 mg, 3.87 mmol) was added and the solution was cooled to −30° C. before POCl3 (750 μl, 8.13 mmol) was added drop wise. The reaction mixture was stirred at −10° C. for 1 hour and then at room temperature for 2 hours. The mixture was concentrated under vacuum and the residue was triturated with NaHCO3 to pH 7. The precipitate was filtrated, washed with water and dried. The amide was pure enough for the next step without purification (972 mg, 91%).

reactant | 2-thiazolecarboxaldehyde | 3.87 mmol, 500 mg | S1C(=NC=C1)C=O | C4H3NOS
reactant | 1-(2-amino-4-methoxyphenyl)ethanone | 3.87 mmol, 640 mg | NC1=C(C=CC(=C1)OC)C(C)=O | C9H11NO2
reactant | POCl3 | 8.13 mmol, 750 μl | O=P(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-acetyl-5-methoxyphenyl)-2-thiazolecarboxamide | C(C)(=O)C1=C(C=C(C=C1)OC)NC(=O)C=1SC=CN1 | C13H12N2O3S
